// Point Netlist Generated on: Mar 21 15:47:58 2026
// Generated for: spectre
// Design Netlist Generated on: Mar 21 09:49:05 2026
// Design library name: ECG_IA
// Design cell name: ecg_vga_tb
// Design view name: schematic
simulator lang=spectre
global 0
include "/opt/pdk/ams/410/spectre/c35/soac/soac.scs"
parameters temperature=27 VIN_FREQ=1k VIN_AMP=0 VIN_STEP=10m S0=3.3 S1=3.3 \
    S2=3.3 VDD=2.97
include "/opt/pdk/ams/410/spectre/c35/soac/processOption.scs"
include "/opt/pdk/ams/410/spectre/c35/soac/cmos53.scs" section=cmoswp
include "/opt/pdk/ams/410/spectre/c35/soac/res.scs" section=restm
include "/opt/pdk/ams/410/spectre/c35/soac/cap.scs" section=capws
include "/opt/pdk/ams/410/spectre/c35/soac/bip.scs" section=biptm
include "/opt/pdk/ams/410/spectre/c35/soac/ind.scs" section=indtm
include "/opt/pdk/ams/410/spectre/c35/soac/esddiode.scs" section=esddiodetm

// Library name: PRIMLIB
// Cell name: rpolyhc
// View name: schematic
subckt rpolyhc PLUS MINUS REF
parameters w=10u l=10u mult=1 mmw=0 cap=14.34f
    R1 (PLUS net9) rpolyh w=w l=(0.5 * l) m=mult mmw=mmw
    R2 (net9 MINUS) rpolyh w=w l=(0.5*l) m=mult mmw=mmw
    CS0 (PLUS REF) capacitor c=(1-0.5*(1+tanh(l/200/w)))*cap/2 m=mult
    CS1 (MINUS REF) capacitor c=(1-0.5*(1+tanh(l/200/w)))*cap/2 m=mult
    CM (net9 REF) capacitor c=(0.5*(1+tanh(l/200/w))*cap) m=mult
ends rpolyhc
// End of subcircuit definition.

// Library name: PRIMLIB
// Cell name: cpolyc
// View name: schematic
subckt cpolyc MINUS PLUS SUB
parameters pcap=15.5f area=100p perimeter=40u mmw=0
    C1 (MINUS SUB) capacitor c=pcap m=1
    C0 (PLUS MINUS) cpoly area=area perimeter=perimeter m=1 mmw=mmw
ends cpolyc
// End of subcircuit definition.

// Library name: ECG_IA
// Cell name: mux21
// View name: schematic
subckt mux21 A0 A1 C GNDA S VDDA
    MN2 (SN S GNDA GNDA) modn w=0.8u l=0.35u as=6.8e-13 ad=6.8e-13 ps=2.5u \
        pd=2.5u nrd=0.625 nrs=0.625 ng=1
    MN1 (A1 S C GNDA) modn w=4u l=0.35u as=3.4e-12 ad=3.4e-12 ps=5.7u \
        pd=5.7u nrd=0.125 nrs=0.125 ng=1
    MN0 (A0 SN C GNDA) modn w=4u l=0.35u as=3.4e-12 ad=3.4e-12 ps=5.7u \
        pd=5.7u nrd=0.125 nrs=0.125 ng=1
    MP0 (SN S VDDA VDDA) modp w=1.4u l=0.35u as=1.19e-12 ad=1.19e-12 \
        ps=3.1u pd=3.1u nrd=0.3571429 nrs=0.3571429 ng=1
ends mux21
// End of subcircuit definition.

// Library name: ECG_IA
// Cell name: ecg_vga4
// View name: schematic
subckt ecg_vga4 BIAS GNDA S\<2\> S\<1\> S\<0\> VDDA VIN VOUT
    MN9 (net15 BIAS net43 GNDA) modn w=10u l=8u as=8.5e-12 ad=5e-12 \
        ps=11.7u pd=1u nrd=0.05 nrs=0.05 ng=2
    MN7 (net43 net14 GNDA GNDA) modn w=10u l=12u as=8.5e-12 ad=5e-12 \
        ps=11.7u pd=1u nrd=0.05 nrs=0.05 ng=2
    MN17 (VOUT net41 GNDA GNDA) modn w=10u l=1u as=8.5e-12 ad=5e-12 \
        ps=11.7u pd=1u nrd=0.05 nrs=0.05 ng=2
    MN16 (net39 net39 GNDA GNDA) modn w=15u l=15u as=1.275e-11 ad=7.5e-12 \
        ps=16.7u pd=1u nrd=0.03333333 nrs=0.03333333 ng=2
    MN15 (net41 net39 GNDA GNDA) modn w=15u l=15u as=1.275e-11 ad=7.5e-12 \
        ps=16.7u pd=1u nrd=0.03333333 nrs=0.03333333 ng=2
    MN8 (BIAS BIAS net14 GNDA) modn w=10u l=8u as=8.5e-12 ad=5e-12 \
        ps=11.7u pd=1u nrd=0.05 nrs=0.05 ng=2
    MN4 (net14 net14 GNDA GNDA) modn w=10u l=12u as=8.5e-12 ad=5e-12 \
        ps=11.7u pd=1u nrd=0.05 nrs=0.05 ng=2
    R1 (net41 net1 GNDA) rpolyhc w=2u l=150u mult=1 mmw=0 cap=50.7f
    C8\<0\> (net7 B GNDA) cpolyc m=1 pcap=170.625f area=1.23n \
        perimeter=140u mmw=0
    C8\<1\> (net7 B GNDA) cpolyc m=1 pcap=170.625f area=1.23n \
        perimeter=140u mmw=0
    C8\<2\> (net7 B GNDA) cpolyc m=1 pcap=170.625f area=1.23n \
        perimeter=140u mmw=0
    C8\<3\> (net7 B GNDA) cpolyc m=1 pcap=170.625f area=1.23n \
        perimeter=140u mmw=0
    C8\<4\> (net7 B GNDA) cpolyc m=1 pcap=170.625f area=1.23n \
        perimeter=140u mmw=0
    C8\<5\> (net7 B GNDA) cpolyc m=1 pcap=170.625f area=1.23n \
        perimeter=140u mmw=0
    C8\<6\> (net7 B GNDA) cpolyc m=1 pcap=170.625f area=1.23n \
        perimeter=140u mmw=0
    C8\<7\> (net7 B GNDA) cpolyc m=1 pcap=170.625f area=1.23n \
        perimeter=140u mmw=0
    C6\<0\> (net9 B GNDA) cpolyc m=1 pcap=170.625f area=1.23n \
        perimeter=140u mmw=0
    C6\<1\> (net9 B GNDA) cpolyc m=1 pcap=170.625f area=1.23n \
        perimeter=140u mmw=0
    C7\<0\> (net8 B GNDA) cpolyc m=1 pcap=170.625f area=1.23n \
        perimeter=140u mmw=0
    C7\<1\> (net8 B GNDA) cpolyc m=1 pcap=170.625f area=1.23n \
        perimeter=140u mmw=0
    C7\<2\> (net8 B GNDA) cpolyc m=1 pcap=170.625f area=1.23n \
        perimeter=140u mmw=0
    C7\<3\> (net8 B GNDA) cpolyc m=1 pcap=170.625f area=1.23n \
        perimeter=140u mmw=0
    C4 (VOUT B GNDA) cpolyc m=1 pcap=170.625f area=1.23n perimeter=140u \
        mmw=0
    C5 (GNDA B GNDA) cpolyc m=1 pcap=170.625f area=1.23n perimeter=140u \
        mmw=0
    C9\<0\> (VOUT net1 GNDA) cpolyc m=1 pcap=170.625f area=1.23n \
        perimeter=140u mmw=0
    C9\<1\> (VOUT net1 GNDA) cpolyc m=1 pcap=170.625f area=1.23n \
        perimeter=140u mmw=0
    C9\<2\> (VOUT net1 GNDA) cpolyc m=1 pcap=170.625f area=1.23n \
        perimeter=140u mmw=0
    MP7 (net2 net2 VOUT VOUT) modp w=1u l=0.35u as=8.5e-13 ad=8.5e-13 \
        ps=2.7u pd=2.7u nrd=0.5 nrs=0.5 ng=1
    MP5 (GNDA B net3 net3) modp w=6.25u l=0.35u as=3.671875e-12 \
        ad=3.125e-12 ps=2.7375u pd=1u nrd=0.08 nrs=0.08 ng=8
    MP3 (net3 net15 VDDA VDDA) modp w=10u l=15u as=8.5e-12 ad=8.5e-12 \
        ps=11.7u pd=11.7u nrd=0.05 nrs=0.05 ng=1
    MP8 (VOUT VOUT VOUT VOUT) modp w=1u l=0.35u as=8.5e-13 ad=8.5e-13 \
        ps=2.7u pd=2.7u nrd=0.5 nrs=0.5 ng=1
    MP1 (B B net44 net44) modp w=1u l=0.35u as=8.5e-13 ad=8.5e-13 ps=2.7u \
        pd=2.7u nrd=0.5 nrs=0.5 ng=1
    MP0 (net44 net44 net5 net5) modp w=1u l=0.35u as=8.5e-13 ad=8.5e-13 \
        ps=2.7u pd=2.7u nrd=0.5 nrs=0.5 ng=1
    MP2 (net5 net5 net2 net2) modp w=1u l=0.35u as=8.5e-13 ad=8.5e-13 \
        ps=2.7u pd=2.7u nrd=0.5 nrs=0.5 ng=1
    MP4 (net15 net15 VDDA VDDA) modp w=10u l=15u as=8.5e-12 ad=5e-12 \
        ps=11.7u pd=1u nrd=0.05 nrs=0.05 ng=2
    MP13 (net33 net15 VDDA VDDA) modp w=10u l=15u as=5.7e-12 ad=5e-12 \
        ps=3.14u pd=1u nrd=0.05 nrs=0.05 ng=10
    MP12 (VOUT net15 VDDA VDDA) modp w=10u l=15u as=5.14e-12 ad=5e-12 \
        ps=1.428u pd=1u nrd=0.05 nrs=0.05 ng=50
    MP10 (net41 VIN net33 net33) modp w=10u l=4u as=5.7e-12 ad=5e-12 \
        ps=3.14u pd=1u nrd=0.05 nrs=0.05 ng=10
    MP9 (net39 B net33 net33) modp w=10u l=4u as=5.7e-12 ad=5e-12 ps=3.14u \
        pd=1u nrd=0.05 nrs=0.05 ng=10
    I0 (net3 GNDA net9 GNDA S\<0\> VDDA) mux21
    I1 (net3 GNDA net8 GNDA S\<1\> VDDA) mux21
    I2 (net3 GNDA net7 GNDA S\<2\> VDDA) mux21
ends ecg_vga4
// End of subcircuit definition.

// Library name: ECG_IA
// Cell name: ecg_vga_tb
// View name: schematic
I0 (net1 0 S\<2\> S\<1\> S\<0\> net2 VIN VOUT) ecg_vga4
V6 (S\<2\> 0) vsource dc=S2 type=dc
V5 (S\<1\> 0) vsource dc=S1 type=dc
V4 (S\<0\> 0) vsource dc=S0 type=dc
V1 (net3 net4) vsource dc=1.6 xfmag=1 type=dc
V0 (net2 0) vsource dc=VDD xfmag=1 type=dc
I2 (0 net1) isource dc=200n type=dc
V2 (VIN net3) vsource mag=1 type=sine ampl=VIN_AMP freq=VIN_FREQ
C1 (VOUT2 0) capacitor c=500.0p
V3 (net4 0) vsource type=pulse val0=0 val1=VIN_STEP period=1 delay=1u \
        rise=1n fall=1n width=500.0m
R0 (VOUT VOUT2) resistor r=1200k
simulatorOptions options psfversion="1.4.0" reltol=100e-6 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 homotopy=all limit=delta scalem=1.0 \
    scale=1.0 compatible=spice2 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf enable_pre_ver=yes ignorezerovar=yes 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
pz ( VOUT ) pz iprobe=V2 freq=1 
tran tran stop=40m errpreset=conservative write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
ac ac start=0.01 stop=100M dec=30 annotate=status 
noise ( VOUT2 ) noise start=0.01 stop=100M dec=30 iprobe=V2 \
    annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
